US07211672B2
(±)-Cis-N-(4-chloro-phenyl)-N-[1-(4-fluoro-benzoyl)-2-methyl-6-morpholin-4-yl-1,2,3,4-tetrahydro-quinolin-4-yl]-propionamide (B-70)
(±)-Cis-N-[6-bromo-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-(4-chloro-phenyl)-propionamide was dissolved in toluene, followed by Pd2(dba)3, BINAP, sodium tert-butoxide, and morpholine. The reaction mixture was heated to 90° C. for 24 hours. The reaction mixture was cooled to room temperature and filtered through Celite® and concentrated. Crude mixture was purified by flash chromatography on silica gel using a gradient elution of hexane-ethylacetate (10–50%).

reactant | (±)-Cis-N-[6-bromo-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-(4-chloro-phenyl)-propionamide | BrC=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C1=CC=C(C=C1)F)=O)C)N(C(CC)=O)C1=CC=C(C=C1)Cl | C26H23BrClFN2O2
reactant | BINAP | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | CC(C)([O-])C.[Na+]
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (±)-Cis-N-(4-chloro-phenyl)-N-[1-(4-fluoro-benzoyl)-2-methyl-6-morpholin-4-yl-1,2,3,4-tetrahydro-quinolin-4-yl]-propionamide | ClC1=CC=C(C=C1)N(C(CC)=O)[C@@H]1C[C@@H](N(C2=CC=C(C=C12)N1CCOCC1)C(C1=CC=C(C=C1)F)=O)C | C30H31ClFN3O3
